US04297355
7-CARBOXY-(1H,3H,5H)-(1)-BENZOPYRANO-(2,3-d)-PYRIMIDINE-4-ONE-2-THIONE
Warm a suspension of 7-methoxycarbonyl-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione (5 g.) in 1 N-sodium hydroxide (25 ml.) until a clear solution is formed and continue the warming for an additional 1/2 hour. Filter the solution and acidify the filtrate with 2 N sulfuric acid. Filter and wash the solids with water, isopropanol and then ether. Dry the washed solid to obtain. 7-carboxy-2,4-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione.

reactant | 7-methoxycarbonyl-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione | 5 g | COC(=O)C=1C=CC2=C(CC3=C(NC(NC3=O)=S)O2)C1 | C13H10N2O4S
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
product | 7-CARBOXY-(1H,3H,5H)-(1)-BENZOPYRANO-(2,3-d)-PYRIMIDINE-4-ONE-2-THIONE | C(=O)(O)C=1C=CC2=C(CC3=C(NC(NC3=O)=S)O2)C1 | C12H8N2O4S
